US07713994B2
1H-Indole-4-carbaldehyde O-methyl-oxime
To an amount of 1H-Indole-4-carbaldehyde (50 mg, 0.34 mmol) is added pyridine (10 ml) at room temperature, followed by addition of methoxylamine hydrogen chloride (31.6 mg, 0.38 mmol). The mixture is stirred at ambient temperature for 24 h, and 2 mL of water is added. After the solvents were evaporated, the residue is dissolved 2 mL of anhydrous ether, washed successively with 2 mL of aqueous sodium bicarbonate, 2 mL of sodium bisulfite, and 2 mL of brine. Dried over magnesium sulfate, evaporated to give a white solid (35 mg). MS (ESI) m/z 175.2 (M+1)

reactant | 1H-Indole-4-carbaldehyde | 0.34 mmol, 50 mg | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
reactant | methoxylamine hydrogen chloride | 0.38 mmol, 31.6 mg | Cl.O(C)N
solvent | water | 2 mL | O | H2O
product | 1H-Indole-4-carbaldehyde O-methyl-oxime | 35 mg | CON=CC=1C=2C=CNC2C=CC1 | C10H10N2O
